US08278442B2
Preparation 20: 6-(1-Formylisoquinolin-4-yloxy)nicotinamide
To 6-(1-methylisoquinolin-4-yloxy)nicotinamide (Preparation 19) (135 mg, 0.48 mmol) in dioxane (6 mL) under argon was added selenium dioxide (54 mg, 0.48 mmol). The mixture was heated to 80° C. for 3 h after which time selenium dioxide (54 mg, 0.48 mmol) was added. After a further 0.5 h at 80° C. the mixture was cooled, filtered through Celite and washed with EtOAc (50 mL). The organic phase was washed with NaHCO3 (30 mL), water (30 mL), brine (30 mL) and dried (MgSO4). Solvent was removed in vacuo to give the title compound: RT=2.93 min; m/z (ES+)=294.1 [M+H]+.

reactant | 6-(1-methylisoquinolin-4-yloxy)nicotinamide | 0.48 mmol, 135 mg | CC1=NC=C(C2=CC=CC=C12)OC1=NC=C(C(=O)N)C=C1 | C16H13N3O2
reactant | selenium dioxide | 0.48 mmol, 54 mg | [Se](=O)=O | O2Se
reactant | selenium dioxide | 0.48 mmol, 54 mg | [Se](=O)=O | O2Se
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | 6-(1-Formylisoquinolin-4-yloxy)nicotinamide | C(=O)C1=NC=C(C2=CC=CC=C12)OC1=NC=C(C(=O)N)C=C1 | C16H11N3O3
